US08426447B2
To a suspension of 8-bromo-10-oxo-10H-chromeno[3,2-b]pyridine 1-oxide in 100 mL of toluene at 0° C. was added dropwise phosphorus oxychloride (35.8 mL, 391 mmol) followed by 2 mL of DMF and the mixture was stirred at RT overnight. The solvent was evaporated under vacuum and the residue which crashed out of water, was filtered and washed with water, methanol and acetone in sequence. The solid was air dried to give 8-bromo-2-chloro-10H-chromeno[3,2-b]pyridin-10-one as a tan solid.

reactant | 8-bromo-10-oxo-10H-chromeno[3,2-b]pyridine 1-oxide | BrC1=CC=2C(C3=[N+](C=CC=C3OC2C=C1)[O-])=O | C12H6BrNO3
reactant | phosphorus oxychloride | 391 mmol, 35.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 8-bromo-2-chloro-10H-chromeno[3,2-b]pyridin-10-one | BrC1=CC=2C(C3=NC(=CC=C3OC2C=C1)Cl)=O | C12H5BrClNO2
